US05180720
8-chloro-10,11-dihydro-3-methoxydibenz[b,f][1,4]oxazepine
3.50 g of 2-(4-chloro-2-nitrophenoxy)-4-methoxybenzaldehyde, prepared as described above in Example 5, in tetrahydrofuran (THF) (35 mL) was shaken in a Parr hydrogenator at 5 psi hydrogen with Raney nickel at 25° C. for 6 hours. The catalyst was filtered from the reaction and the solution evaporated in vacuo. The crude product was chromatographed, as described above in Example 2, through silica gel 60 using hexane:ethyl acetate (2:1), and recrystallized from ethanol (3A) to yield 1.79 g (60.1%) of product as white crystals. Melting Point: 113°-115° C.

reactant | 2-(4-chloro-2-nitrophenoxy)-4-methoxybenzaldehyde | 3.50 g | ClC1=CC(=C(OC2=C(C=O)C=CC(=C2)OC)C=C1)[N+](=O)[O-] | C14H10ClNO5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 8-chloro-10,11-dihydro-3-methoxydibenz[b,f][1,4]oxazepine | 1.79 g, 60.1% | ClC1=CC2=C(OC3=C(CN2)C=CC(=C3)OC)C=C1 | C14H12ClNO2
